** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/nand3/schematic/nand3.sch
**.subckt nand3 VDD VA VB VC VOUT VSS
*.iopin VDD
*.iopin VSS
*.ipin VA
*.ipin VB
*.opin VOUT
*.ipin VC
XM1 net1 VA VSS VSS sg13_lv_nmos w=0.45u l=0.13u ng=1
XM2 VOUT VC net2 VSS sg13_lv_nmos w=0.45u l=0.13u ng=1
XM3 VOUT VB VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
XM4 VOUT VA VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
XM5 VOUT VC VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
XM6 net2 VB net1 VSS sg13_lv_nmos w=0.45u l=0.13u ng=1
**.ends
.end
